US09353066B2
A suspension of 1-bromo-3-methyl-5-nitrobenzene (500 mg, 2.31 mmol), phenyl boronic acid (423 mg, 3.47 mmol), sodium carbonate (491 mg, 4.63 mmol), palladium(II) acetate (26.0 mg, 0.116 mmol) and tri-o-tolylphosphine (70.4 mg, 0.231 mmol) in DME (1 mL) and water (4 mL) was heated to 110° C. for 30 minutes in the microwave reactor. Upon cooling to room temperature, the reaction mixture was diluted with ethyl acetate and filtered through CELITE. The filtrate was concentrated in vacuo, and the resulting residue was purified by silica gel chromatography (ethyl acetate/hexanes) to provide 3-methyl-5-nitrobiphenyl as a yellow solid. 1H NMR (400 MHz, CDCl3) 1H NMR (400 MHz, CDCl3) δ 8.27 (s, 1H), 8.04 (s, 1H), 7.74 (s, 1H), 7.63 (d, J=7.5 Hz, 2H), 7.51 (t, J=7.5 Hz, 2H), 7.44 (t, J=7.2 Hz, 1H), 2.55 (s, 3H).

reactant | 1-bromo-3-methyl-5-nitrobenzene | 2.31 mmol, 500 mg | BrC1=CC(=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | phenyl boronic acid | 3.47 mmol, 423 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 4.63 mmol, 491 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolylphosphine | 0.231 mmol, 70.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.116 mmol, 26.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-methyl-5-nitrobiphenyl | CC=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H11NO2
